US04510324
A procedure similar to that described in Example I was used to prepare the N-mesyl-4-vinylbenzenesulfonamide using phenyl ethyl chloride as a starting material and producing as an intermediate N-mesyl-4-(2-chloroethyl)benzenesulfonamide. Analysis of obtained vs. theoretical values for the intermediate are as follows: melting point: 149°-151° C.; neutralization equivalent: 302.05 (theory 297).

reactant | N-mesyl-4-vinylbenzenesulfonamide | S(=O)(=O)(C)NS(=O)(=O)C1=CC=C(C=C1)C=C | C9H11NO4S2
reactant | phenyl ethyl chloride | C1(=CC=CC=C1)CCCl | C8H9Cl
product | N-mesyl-4-(2-chloroethyl)benzenesulfonamide | S(=O)(=O)(C)NS(=O)(=O)C1=CC=C(C=C1)CCCl | C9H12ClNO4S2
